US08623899B2
A solution of 10 g of L-proline and KOH (10 g) in 120 mL isopropanol was stirred at 40° C., then benzyl chloride (13.5 mL) was added dropwise. The reaction mixture was stirred for 6 additional hours, then neutralized with concentrated HCl to a pH of 5-6. The reaction mixture was extracted with CH2Cl2 (3×70 mL), the combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, the solids were removed by filtration and the solvents of the filtrate were removed under reduced pressure. The residue was treated with acetone to afford N-benzyl proline (15 g).

reactant | L-proline | 10 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | KOH | 10 g | [OH-].[K+]
reactant | benzyl chloride | 13.5 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | HCl | Cl | ClH
solvent | isopropanol | 120 mL | C(C)(C)O | C3H8O
product | N-benzyl proline | 15 g | C(C1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C12H15NO2
